US06051712
In an analogous manner to that described in Example 5 (b), by reducing methyl (E)-4-phenyl-but-3-enoate by means of lithium aluminium hydride in tetrahydrofuran there was obtained (E)-4-phenyl-but-3-en-1-ol, which was converted into (E)-4-phenyl-but-3-enyl methanesulphonate in analogy to the procedure described in J.Chem.Soc. Perk.Trans. 1 (1988), (6), 1517-1519 for the preparation of the (Z) isomer.

reactant | methyl (E)-4-phenyl-but-3-enoate | C1(=CC=CC=C1)/C=C/CC(=O)OC | C11H12O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (E)-4-phenyl-but-3-en-1-ol | C1(=CC=CC=C1)/C=C/CCO | C10H12O
